US03944589
A solution of 6 g of α-[p-(1-cyclohexenyl)-phenyl]-propionic acid chloride in 10 ml of toluene is added dropwise with stirring at room temperature to a solution of 6 g of β-dimethylamino-ethylamine in 40 ml of toluene. The reaction mixture is stirred for two hours, then extracted with 2N hydrochloric acid, the hydrochloric acid solution washed with ethyl acetate and rendered alkaline with 4N sodium hydroxide solution. The batch is extracted with ethyl acetate, washed with water, dried over sodium sulphate and evaporated in vacuo. The solid residue is recrystallized from methylene chloride and petroleum ether to yield N-(β-dimethylamino-ethyl)-α-[p-(1-cyclohexenyl)-phenyl]-propionic acid amide of the formula ##SPC13##

reactant | α-[p-(1-cyclohexenyl)-phenyl]-propionic acid chloride | 6 g | C1(=CCCCC1)C1=CC=C(C=C1)C(C(=O)Cl)C | C15H17ClO
reactant | β-dimethylamino-ethylamine | 6 g | CN(CCN)C | C4H12N2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-(β-dimethylamino-ethyl)-α-[p-(1-cyclohexenyl)-phenyl]-propionic acid amide | CN(CCNC(C(C)C1=CC=C(C=C1)C1=CCCCC1)=O)C | C19H28N2O
